US08222424B2
5-[3-(tert-Butyl-dimethyl-silanyloxy)-4-methoxy-benzoyl]-2-chloro-benzenesulfonamide
To a solution of 5-{[3-(tert-butyl-dimethyl-silanyloxy)-4-methoxy-phenyl]-hydroxy-methyl}-2-chloro-benzenesulfonamide (0.57 g, 1.24 mmol) dissolved in acetone (100 mL) is added Jones reagent (3 M, 0.4 mL), and the reaction mixture is stirred at room temperature for 15 minutes. The reaction is quenched with water, and the aqueous layer is extracted with methylene chloride three times. The combined organic extracts are washed with saturated sodium bicarbonate solution, a saturated sodium chloride solution, dried with magnesium sulfate, and concentrated in vacuo. Recrystallization from methylene chloride/hexane provides 0.28 g (50%) of the title compound as a grey solid. 1H NMR (CDCl3): δ 8.23 (d, J=2 Hz, 1H), 7.80 (dd, J=8, 2 Hz, 1H), 7.50 (d, J=8 Hz, 1H), 7.20 (m, 2H), 6.70 (d, J=8 Hz, 1H), 5.00 (s, 2H), 3.70 (s, 3H), 0.90 (s, 9H), 0.05 (s, 6H).

reactant | 5-{[3-(tert-butyl-dimethyl-silanyloxy)-4-methoxy-phenyl]-hydroxy-methyl}-2-chloro-benzenesulfonamide | 1.24 mmol, 0.57 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1OC)C(C=1C=CC(=C(C1)S(=O)(=O)N)Cl)O)(C)C | C20H28ClNO5SSi
reactant | Jones reagent | 3 M, 0.4 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 5-[3-(tert-Butyl-dimethyl-silanyloxy)-4-methoxy-benzoyl]-2-chloro-benzenesulfonamide | 0.28 g, 50% | C(C)(C)(C)[Si](OC=1C=C(C(=O)C=2C=CC(=C(C2)S(=O)(=O)N)Cl)C=CC1OC)(C)C | C20H26ClNO5SSi
